US08455477B2
To a solution of 1-methyl-2-(2-thienyl)-1H-imidazole (116 mg, 0.706 mmol) in acetonitrile (5 ml) was added NIS (159 mg, 0.706 mmol) at room temperature. The reaction mixture was heated in the Biotage Initiator Series microwave for 1 hour at 120° C. The reaction mixture was diluted in ethyl acetate, washed with 1N aqueous sodium hydroxide and brine then dried over sodium sulfate, filtered and concentrated to give 5-iodo-1-methyl-2-(2-thienyl)-1H-imidazole. The material was taken forward without any additional purification. LRMS (ESI) calculated for C8H8N2SI [M+H]+, 290.9; found 291.0.

reactant | 1-methyl-2-(2-thienyl)-1H-imidazole | 0.706 mmol, 116 mg | CN1C(=NC=C1)C=1SC=CC1 | C8H8N2S
reactant | NIS | 0.706 mmol, 159 mg | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-iodo-1-methyl-2-(2-thienyl)-1H-imidazole | IC1=CN=C(N1C)C=1SC=CC1 | C8H7IN2S
